US07932272B2
6Amino-N-(5-phenoxy thiophen-2-ylmethyl)-nicotinamide
To a solution of C-(5-phenoxythiophen-2-yl)methylamine described in Preparation Example 24 (170 mg, 0.83 mmol) and 6-aminonicotinic acid (130 mg, 0.91 mmol) in N,N-dimethylformamide (10 mL) were added benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (400 mg, 0.91 mmol) and triethylamine (0.3 mL, 2.2 mmol), and the solution was stirred for 35 minutes at 60° C. Water and ethyl acetate were added to the reaction solution, which was then partitioned, the organic layer was washed with water twice, NH silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption, purification was carried out by NH silica gel column chromatography (ethyl acetate, then ethyl acetate:methanol=50:1), and the title compound (130 mg, 0.40 mmol, 48.2%) was obtained as a solid.

reactant | C-(5-phenoxythiophen-2-yl)methylamine | O(C1=CC=CC=C1)C1=CC=C(S1)CN | C11H11NOS
reactant | 6-aminonicotinic acid | 0.91 mmol, 130 mg | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.91 mmol, 400 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6Amino-N-(5-phenoxy thiophen-2-ylmethyl)-nicotinamide | 0.40 mmol, 130 mg, 48.2% | NC1=NC=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=C1 | C17H15N3O2S
